US06495604B1
Sodium peroxyborate tetrahydrate (46.3 g) was admixed with acetic acid (270 ml) and heated to 50 to 55° C. and then a solution of ethyl 5,5-dimethyl-2-mercapto-1-cyclohexene-1-carboxylate (20.2 g) synthesized in Reference Example 17 in acetic acid (30 ml) was, added dropwise over 2 hours. The mixture was stirred at 50 to 55° C. for 3 hours and then at 80 to 85° C. for 8 hours and concentrated under reduced pressure. The residue was combined with acetonitrile (450 ml) and stirred at room temperature for 4 hours and the resultant insolubles were filtered off. The insolubles were washed with acetonitrile (120 ml) and the filtrate and the washing were combined and concentrated under reduced pressure, and the resultant residue was dissolved in acetonitrile (330 ml) and stirred at room temperature for 15 hours. The resultant insolubles were filtered off, and the filtrate was concentrated under reduced pressure. The residue was combined with diisopropyl ether (300 ml) and the powder which precipitated was isolated by a filtration to yield ethyl 5,5-dimethyl-2-sulfo-1-cyclohexene-1-carboxylate as an orange oil (26.5 g) containing inorganic substances. This (26.3 g) was dissolved in thionyl chloride (79 ml) and then stirred at 80 to 90° C. for 7.5 hours. The solution was evaporated under reduced pressure to dryness and the residue was dissolved in ethyl acetate (150 ml). The solution thus obtained was combined with dilute brine (200 ml) and partitioned, and then the ethyl acetate layer was washed twice with saturated brine (100 ml) and then dried over anhydrous sodium sulfate. The solvent was evaporated off to obtain a residue, which was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane=1/8) to yield ethyl 2-chlorosulfonyl-5, 5-dimethyl-1-cyclohexene-1-carboxylate (12.4 g) as a brown oil.

reactant | Sodium peroxyborate tetrahydrate | 46.3 g | O.O.O.O.B([O-])([O-])O[O-].[Na+].[Na+].[Na+]
reactant | ethyl 5,5-dimethyl-2-mercapto-1-cyclohexene-1-carboxylate | 20.2 g | CC1(CCC(=C(C1)C(=O)OCC)S)C | C11H18O2S
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 270 ml | C(C)(=O)O | C2H4O2
product | ethyl 5,5-dimethyl-2-sulfo-1-cyclohexene-1-carboxylate | 26.5 g | CC1(CCC(=C(C1)C(=O)OCC)S(=O)(=O)O)C | C11H18O5S
